US07592477B2
oxo{{4-[2-(4-propylphenyl)ethyl]benzyl}[4-(trifluoromethyl)benzyl]-amino}acetic acid
The same procedure as employed in the preparation of Example 1 (step c) but using oxo{{4-[(4-propylphenyl)ethynyl]benzyl}[4-(trifluoromethyl)benzyl]amino}acetic acid in EtOAc gave the title compound as a colorless oil (51%). M−(LC/MS(ESI)): 482. HPLC (Condition A), Rt: 5.43 min (HPLC purity: 89.2%).

reactant | oxo{{4-[(4-propylphenyl)ethynyl]benzyl}[4-(trifluoromethyl)benzyl]amino}acetic acid | O=C(C(=O)O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CCC | C28H24F3NO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | oxo{{4-[2-(4-propylphenyl)ethyl]benzyl}[4-(trifluoromethyl)benzyl]-amino}acetic acid | 51% | O=C(C(=O)O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)CCC1=CC=C(C=C1)CCC | C28H28F3NO3
